US05990105
0.098 g (0.00025 mol) of 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine was dissolved in 3 ml of dioxane and treated with 0.27 ml of 2dimethylaminoethylamine. The mixture was stirred at 60° C. for 48 hrs., the solvent was removed and the residue was chromatographed on silica gel with 2% methanol in dichloromethane. There was obtained 0.084 g (84%) of N-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-yl]-N',N'-dimethylethane-1,2-diamine as a light yellow, amorphous solid. MS (ISP): me/e =401, 399 (C15H20BrN4O2S+).

reactant | 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine | 0.00025 mol, 0.098 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | 2dimethylaminoethylamine | 0.27 ml | CN(CCN)C | C4H12N2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | N-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-yl]-N',N'-dimethylethane-1,2-diamine | 0.084 g, 84% | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)NCCN(C)C | C15H19BrN4O2S
